US09388173B2
1-(3-(1H-indazol-6-yl)phenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
To a solution of 6-bromo-1H-indazole (64.2 mg, 0.326 mmol) in dioxane (4 ml) and water (1 mL) was added 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (200 mg, 0.489 mmol), Pd(dppf)Cl2 (24 mg, 0.03257 mmol) and K2CO3 (135 mg, 0.98 mmol) at 16° C. The reaction mixture was stirred for 16 h at 100° C. TLC (PE: EA=1:1) showed that the reaction was completed. The mixture was concentrated to provide a crude product which was purified by HPLC separation to give the title compound (22.0 mg, 11.3%) as a white solid. 1HNMR (CD3OD, 400 MHz) δ: 8.49 (br, 1H), 8.07 (s, 1H), 7.85-7.83 (m, 1H), 7.76-7.71 (m, 1H), 7.44-7.10 (m, 8H), 7.03-6.98 (m, 1H), 4.50-4.42 (m, 1H), 4.30 (s, 2H), 4.15-4.13 (m, 2H), 3.49-3.40 (m, 2H), 3.36-3.31 (m, 2H), 3.19-3.10 (m, 2H). LCMS (m/z): 400.2 [M+H]+

reactant | 6-bromo-1H-indazole | 0.326 mmol, 64.2 mg | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 0.489 mmol, 200 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 0.98 mmol, 135 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.03257 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3-(1H-indazol-6-yl)phenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 22.0 mg, 11.3% | N1N=CC2=CC=C(C=C12)C=1C=C(OCC(CN2CC3=CC=CC=C3CC2)O)C=CC1 | C25H25N3O2
